US04665206
4-Chloro-5,6-dimethoxy-benzo[b]thiophene-2-carboxylic acid ethyl ester (29.5 g) was suspended in a mixture of methanol (450 ml), water (75 ml) and potassium carbonate (20.4 g) under an atmosphere of nitrogen. The reaction mixture was heated at reflux for 1 hour then cooled and poured into water (2.5 liter) containing hydrochloric acid (5M, 60 ml). The resultant white solid was filtered and dried at 65° C. under vacuum to give 4-chloro-5,6-dimethoxy-benzo[b]thiophene-2-carboxylic acid (26.8 g). A portion crystallised from dichloromethane:methanol had, m.p. 267°-270° C.

reactant | 4-Chloro-5,6-dimethoxy-benzo[b]thiophene-2-carboxylic acid ethyl ester | 29.5 g | C(C)OC(=O)C1=CC2=C(S1)C=C(C(=C2Cl)OC)OC | C13H13ClO4S
reactant | water | 75 ml | O | H2O
reactant | potassium carbonate | 20.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 2.5 liter | O | H2O
reactant | hydrochloric acid | 5M, 60 ml | Cl | ClH
solvent | methanol | 450 ml | CO | CH4O
product | 4-chloro-5,6-dimethoxy-benzo[b]thiophene-2-carboxylic acid | 26.8 g | ClC1=C(C(=CC=2SC(=CC21)C(=O)O)OC)OC | C11H9ClO4S
